US08492405B2
To a solution (250 mL) of sodium ethoxide (17.2 g) in ethanol was added dropwise a mixture of N-(5-formyl-2-methyl-3-thienyl)-N-methylthiophene-2-sulfonamide (19 g) and ethyl azidoacetate (32.5 g) at −25° C. After the completion of the dropwise addition, the mixture was gradually warmed to room temperature. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was concentrated. The obtained residue was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and a fraction eluted with ethyl acetate-hexane (1:1, volume ratio) was concentrated. The obtained yellow oil was dissolved in toluene (50 mL), and the mixture was stirred at 110° C. for 2 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography to give ethyl 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylate (6.54 g, yield 27%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). melting point 161° C.

reactant | sodium ethoxide | 250 mL, 17.2 g | [O-]CC.[Na+]
reactant | N-(5-formyl-2-methyl-3-thienyl)-N-methylthiophene-2-sulfonamide | 19 g | C(=O)C1=CC(=C(S1)C)N(S(=O)(=O)C=1SC=CC1)C | C11H11NO3S3
reactant | ethyl azidoacetate | 32.5 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylate | 6.54 g, yield 27% | CC1=C(C=2NC(=CC2S1)C(=O)OCC)N(S(=O)(=O)C=1SC=CC1)C | C15H16N2O4S3
